US07842703B2
Step 3: 8-chloroisoquinolin-5-amine
To a solution of 8-chloro-5-nitroisoquinoline (1 mmol) in acetic acid, zinc dust (10 mmol) was added. Reaction mixture was refluxed for 5 hours. Reaction mixture was cooled to room temperature and filtered through celite bed. Filtrate was concentrated under vacuum to afford the desired compound.

reactant | 8-chloro-5-nitroisoquinoline | 1 mmol | ClC=1C=CC(=C2C=CN=CC12)[N+](=O)[O-] | C9H5ClN2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | 10 mmol | [Zn] | Zn
product | 8-chloroisoquinolin-5-amine | ClC1=CC=C(C=2C=CN=CC12)N | C9H7ClN2
